US05681959
b) 1-tert-Butoxycarbonyl-2-hydroxy-6-azaindoline
A solution of 3-tert-butoxycarbonylamino-4-methylpyridine (step a, 1.47 g, 7.06 mmol) in tetrahydrofuran (50 ml) was cooled to -70° C. and treated with n-butyllithinum (6.2 ml, 2.5M in hexane, 15.5 mmol) at such a rate as to keep the temperature below -60° C. On complete addition the mixture was warmed to -20° C. and stirred for 30 minutes. The mixture was cooled to -30° C. and treated with dimethylformamide (0.66 ml, 8.47 mmol). The mixture was allowed to warm to 20° C., quenched with water (50 ml) and extracted with ethyl acetate (50 ml and 2×25 ml). The combined organic fractions were washed with saturated brine (50 ml), dried (Na2SO4), filtered and concentrated to residue in vacuo. The residue was purified by chromatography on silica gel (75% ethyl acetate/25% hexane) to afford the title compound as a colourless oil; yield: 1.26 g (81%) 1H NMR (CD2Cl2 /TMS): δ=1.6 (9H, s), 2.96 (1H, d, J=18 Hz), 3.35 (1H, dd, J=8 Hz & 18 Hz), 5.05 (1H, br.s), 5.98 (1H, br.s), 7.16 (1H, d, J=5 Hz), 8.15 (1H, d, J=5 Hz), 8.75 (1H, br.d).

reactant | 3-tert-butoxycarbonylamino-4-methylpyridine | C(C)(C)(C)OC(=O)NC=1C=NC=CC1C | C11H16N2O2
reactant | dimethylformamide | 8.47 mmol, 0.66 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-tert-Butoxycarbonyl-2-hydroxy-6-azaindoline | C(C)(C)(C)OC(=O)N1C(CC2=CC=NC=C12)O | C12H16N2O3
